US06458781B1
Step 1: (S)-[1-(Methoxy-methyl-carbamoyl)-3-methyl-butyl]-methyl-carbamic acid tert-butyl ester:
N-tert-butoxycarbonyl-N-methyl-L-leucine (5.0 g, 20.4 mmol) was dissolved in DMF (100 mL), treated with treated with N,N-diisopropylethylamine (28 mL, 163 mmol), N,N-dimethylhydroxylamine hydrochloride salt (2.0 g, 20.4 mmol), and HBTU (7.73 g, 20.4 mmol), then stirred overnight at room temperature. The reaction was diluted with EtOAc (500 mL), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated to give the desired product as an oil; MS: 289.2 (M+1 for C14H28N2O4); TLC (SiO2) Rf 0.39 (8% MeOH/CH2Cl2), visualized with ninhydrin.

reactant | N-tert-butoxycarbonyl-N-methyl-L-leucine | 20.4 mmol, 5.0 g | C(C)(C)(C)OC(=O)N([C@@H](CC(C)C)C(=O)O)C | C12H23NO4
reactant | N,N-diisopropylethylamine | 163 mmol, 28 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylhydroxylamine hydrochloride salt | 20.4 mmol, 2.0 g | Cl.CN(O)C
reactant | HBTU | 20.4 mmol, 7.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (S)-[1-(Methoxy-methyl-carbamoyl)-3-methyl-butyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H](CC(C)C)C(N(C)OC)=O)=O | C14H28N2O4
